US06339160B1
To a solution of (R)-(−)-2-oxo-thiazolidine-4-carboxylic acid (1.49 g, 10.2 mmols), L-Leucine methylester hydrochloride (1.85 g, 10.2 mmols) and N-methylmorpholinee (1.12 ml, 10.2 mmols) in anhydrous THF (15 ml), cooled at 0° C., was added, under stirring, a solution of DCDI (2.10 g, 10.2 mmols) and HBT (13 mg, 1 mmols) in anhydrous THF (8 ml). After standing one night at room temperature, the N,N′-dicyclohexylures and the hydrochloride of N-methylmorpholines were separated by filtration and the filtered substance was concentrated at reduced pressure. The product was purified by dilution of the raw reside with CHCl3 (50 ml) and extraction with saturated NaHCO3 solution (20 ml×2) and saturated NaCl solution (30 ml). Drying of the organic phase reunited on Na2SO4 and the removal of the solvent at reduced pressure provided the N-{[(R)-(2-Oxo-thiazolidine-4-yl)carbonyl]}-L-leucine methylester which was crystallized with EtOAc: 1.94 g (69%); m.p. 125-6° C.; [a]D22=−79° (1, methanol); IR (CHCl3): 3412, 2956, 1734, 1678, 1515, 1434, 1338, 1158 cm−1; 1H-NMR (CHCl3): d 0.90 and 0.95 [two s, 6, CH2CH(CH3)2], 1.42-74 [m, 3, CH2CH(CH3)2], 3.37-3.85 [m, 2, CH2S and 3.63 (s, 3, OCH3)], 4.18-4.69 (two m, 2, aCH and ring CH), 7.16 (d, 1, NH, J=8 Hz). Calculated for C11H17N2O4S: C, 48.34; H, 6.27; N, 10.25. Found C, 48.29; H, 6.80; N, 10.22%.

reactant | (R)-(−)-2-oxo-thiazolidine-4-carboxylic acid | 10.2 mmols, 1.49 g | O=C1SC[C@H](N1)C(=O)O | C4H5NO3S
reactant | L-Leucine methylester hydrochloride | 10.2 mmols, 1.85 g | Cl.COC([C@@H](N)CC(C)C)=O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | N-{[(R)-(2-Oxo-thiazolidine-4-yl)carbonyl]}-L-leucine methylester | COC([C@@H](NC(=O)[C@H]1NC(SC1)=O)CC(C)C)=O | C11H18N2O4S
